US05700810
A mixture of 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester [prepared by heating 2-hydroxy-5-methylbenzophenone and diethyl malonate in the presence of 1,8-diazabicyclo[5.4.0]undec-7-en; melting point: 129°-131° C.; NMR (200 MHz, CDCl3) ppm: 0.96 (3H, t, J=7.2 Hz), 2.31 (3H, s), 4.07 (2H, q, J=7.2 Hz), 7.01 (1H, bs), 7.2-7.4 (4H, m), 7.5-7.6 (3H, m)] (10.0 g), acetic acid (100 ml). and hydrochloric acid (60 ml) was heated under reflux at 110° C. for 15 hours. After the solvent was distilled off, ethyl acetate was added to the residue. The mixture was washed with water and dried, after which the solvent was distilled off, to yield 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid as colorless crystals (8.7 g).

reactant | 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C)=O | C19H16O4
reactant | 2-hydroxy-5-methylbenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C14H12O2
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-en | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid | 8.7 g | CC=1C=CC2=C(C(=C(C(O2)=O)C(=O)O)C2=CC=CC=C2)C1 | C17H12O4
